US04735940
(aac) 77.5 g of 3,3'-dithio-bis-thiophene-2-carboxamide were suspended in 1200 ml of dioxane, whereupon the suspension was warmed to 45° under an inert gas. 46.4 g of sodium borohydride were added portionwise to the suspension at 45°-48°. After the evolution of hydrogen finished, the mixture was heated under reflux until the disulfide disappeared. 450 ml of water were now added dropwise while cooling and the mixture was subsequently acidified with 2N hydrochloric acid. After dilution of the solution with 1800 ml of water and saturation with sodium chloride, it was extracted exhaustively with ether. The combined extracts were dried over sodium sulfate, filtered and evaporated. After drying, there was obtained crude 3-mercaptothiophene-2-carboxamide of m.p. 116°-120°.

reactant | 3,3'-dithio-bis-thiophene-2-carboxamide | 77.5 g | S1C(=C(C=C1)SSC1=C(SC=C1)C(=O)N)C(=O)N | C10H8N2O2S4
reactant | sodium borohydride | 46.4 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 1200 ml | O1CCOCC1 | C4H8O2
solvent | water | 450 ml | O | H2O
product | 3-mercaptothiophene-2-carboxamide | SC1=C(SC=C1)C(=O)N | C5H5NOS2
